* CMOS Inverter — Parametrized Netlist for Agentic Sizing Loop
* =============================================================
* PyLTSpice edits the .param values before each simulation run.
* .meas statements compute Vm, tpd, tpHL, tpLH — Python reads these.

.param mn1_w=2u mn1_l=180n mp1_w=4u mp1_l=180n

* Supply
VDD vdd 0 DC 1.8

* Input pulse for transient
VIN in 0 PULSE(0 1.8 1n 50p 50p 4n 10n)

* PMOS  drain=out  gate=in  source=vdd  bulk=vdd
MP1 out in vdd vdd PMOS W={mp1_w} L={mp1_l}

* NMOS  drain=out  gate=in  source=0  bulk=0
MN1 out in 0   0   NMOS W={mn1_w} L={mn1_l}

* Load capacitor (fan-out-of-2 estimate)
CL out 0 10f

* ---------------------------------------------------------------
* Generic 180 nm model cards (built-in — no external PDK needed)
* Replace with your PDK .lib if you have one:
*   .lib "path/to/your/pdk.lib" tt
* ---------------------------------------------------------------
.model NMOS NMOS (LEVEL=3 TOX=4e-9 VTO=0.5 UO=450 THETA=0.1
+ KAPPA=0.3 ETA=0.01 NSUB=1e17 LD=5n WD=5n)
.model PMOS PMOS (LEVEL=3 TOX=4e-9 VTO=-0.5 UO=150 THETA=0.1
+ KAPPA=0.3 ETA=0.01 NSUB=1e17 LD=5n WD=5n)

* ---------------------------------------------------------------
* Analyses
* ---------------------------------------------------------------
.DC VIN 0 1.8 0.005

.TRAN 1p 20n

* ---------------------------------------------------------------
* Measurements — LTspice computes these; Python only reads results
* ---------------------------------------------------------------

* Vm: DC switching threshold (Vout = Vin crossing)
.meas DC vm FIND V(out) WHEN V(out)=V(in)

* tpHL: rising Vin → falling Vout  (50% → 50%)
.meas TRAN tphl TRIG V(in)  VAL=0.9 RISE=1 TARG V(out) VAL=0.9 FALL=1

* tpLH: falling Vin → rising Vout
.meas TRAN tplh TRIG V(in)  VAL=0.9 FALL=1 TARG V(out) VAL=0.9 RISE=1

* Average propagation delay
.meas TRAN tpd PARAM='(abs(tphl)+abs(tplh))/2'

.backanno
.end
